### PR TITLE
properties about set valued functors

### PR DESCRIPTION
**Pull request by amblafont**
Facts about set valued functors (ie when the target category is HSET)

- epimorphic natural transformations are pointwise epimorphic
- epimorphic natural transformations enjoy a universal property similar to surjections (univ_surj_nt)

Facts about HSET precategory
- kernel pairs
- pushouts from colims
- effective epis

### CODE REVIEW

**Comment by DanGrayson** [comment]
LGTM

File: UniMath/CategoryTheory/category_hset_structures.v [hunk 1]
```diff
@@ -901,4 +916,109 @@ mkpair.
       now apply funextsec; intros f; cbn; rewrite tppr.
 Defined.
 
-End set_slicecat.
\ No newline at end of file
+End set_slicecat.
+
+(* copied from TypeTheory.Auxiliary.Auxiliary *)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/category_hset_structures.v]: More precisely this is a proof by Peter. Could you mention his name in the comment?

File: UniMath/CategoryTheory/SetValuedFunctors.v [hunk 2]
```diff
@@ -0,0 +1,124 @@
...
+    intros F G m isepim.
+    apply (isEffectivePw (D:=hset_Precategory)).
+    intro x.
+    apply EffectiveEpis_HSET.
+    apply (Pushouts_pw_epi (D:=hset_Precategory)
+                           PushoutsHSET_from_Colims).
+    assumption.
+  Qed.
+
+  Definition univ_surj_nt : nat_trans B C.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/SetValuedFunctors.v]: There is a `Proof.` missing here.

File: UniMath/CategoryTheory/category_hset_structures.v [hunk 3]
```diff
@@ -531,6 +537,15 @@ Section EqualizersHSET_from_Lims.
 
 End EqualizersHSET_from_Lims.
 
+Section PushoutsHSET_from_colims.
+  Require UniMath.CategoryTheory.limits.graphs.pushouts.
+  Lemma PushoutsHSET_from_Colims : graphs.pushouts.Pushouts HSET.
+    red.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/category_hset_structures.v]: `Proof.` missing
